US08227500B2
4-[3-Cyano-4-(3-hydroxymethylphenyl)pyrrole-1-yl]benzoic acid ethyl ester
3-Cyano-5-[1-(4-ethoxycarbonylphenyl)-1H-purrole-3-yl]benzoic acid was prepared in a similar manner to that described in Example 10 using 4-[3-cyano-4-(3-benzyloxymethylphenyl)pyrrole-1-yl]benzoic acid ethyl ester. To a solution of the obtained carboxylic acid (1.0 g) in tetrahydrofuran (30 mL) was added boran-tetrahydrofuran complex (1.2 mol/L tetrahydrofuran solution, 3.75 mL) at 0° C., and this mixture was stirred at room temperature for 2 hours. To this reaction mixture was added saturated aqueous sodium bicarbonate solution, and this mixture was extracted with diethyl ether. This organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. This residue was purified by column chromatography on silica gel (eluent: methanol/dichloromethane=1/20) to give the title compound (0.21 g).

reactant | 4-[3-cyano-4-(3-benzyloxymethylphenyl)pyrrole-1-yl]benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)N1C=C(C(=C1)C1=CC(=CC=C1)COCC1=CC=CC=C1)C#N)=O | C28H24N2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.2 mol/L, 3.75 mL | O1CCCC1 | C4H8O
product | 4-[3-Cyano-4-(3-hydroxymethylphenyl)pyrrole-1-yl]benzoic acid ethyl ester | 0.21 g | C(C)OC(C1=CC=C(C=C1)N1C=C(C(=C1)C1=CC(=CC=C1)CO)C#N)=O | C21H18N2O3
